US08372874B2
Benzyl chloroformate (100.0 g, 588.0 mmol) and 2N aqueous NaOH solution (882.0 mmol) are added at 0° C. to a solution of 2-methyl-isothiourea hemisulfate salt (196.0 g, 705.0 mmol) in DCM (1.0 L). After stirring the reaction mixture at 0° C. for 1 h, water is added and the two phases are separated. The organic layer is dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to afford the crude product that is triturated with 30% EtOAc/Petroleum ether to afford 30 g of 1-benzyloxycarbonyl-2-methyl-isothiourea as a white solid. Yield: 30%; m/z 225 [M+H].

reactant | Benzyl chloroformate | 588.0 mmol, 100.0 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | NaOH | 882.0 mmol, 2N | [OH-].[Na+]
reactant | 2-methyl-isothiourea hemisulfate salt | 705.0 mmol, 196.0 g | S(=O)(=O)(O)O.CSC(N)=N.CSC(N)=N
reactant | water | O | H2O
solvent | DCM | 1.0 L | C(Cl)Cl | CH2Cl2
product | 1-benzyloxycarbonyl-2-methyl-isothiourea | 30 g, Yield: 30% | C(C1=CC=CC=C1)OC(=O)NC(SC)=N | C10H12N2O2S
